US07504524B2
A solution of 5 g of cyclic keto-ester (39 mmol) and 8.1 g of metachloroperbenzoic acid (1.2 eq.) in 40 ml of dichloromethane is heated under reflux for 24 hours. The complete conversion of the ring with 5 members is monitored by NMR 1H on a sample. The reaction medium is then cooled down to −18° C. overnight then filtered on frit in order to eliminate the metachlorobenzoic acid formed. The filtrate is concentrated under vacuum. The residue is recrystallized from ethyl acetate at −18° C. 3.9 g of analytically pure, 3,3-dimethyl-2,5-dioxane-1,4-dione are thus obtained (70% of isolated product yield). The product is characterized by NMR 1H [4.97 (s, 2H), 1.70 (s, 6H)] and 13C [167.7 and 163.9 (C═O), 79.8 (Cq), 65.8 (CH2), 25.8 (CH3)], RX (cf. FIG. 1), mp (84-85° C.) and elementary analysis. Calculated C: 50.00, H: 5.56. Found C: 49.98, H: 5.33.

reactant | metachloroperbenzoic acid | 8.1 g, 1.2 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3,3-dimethyl-2,5-dioxane-1,4-dione | CC1(OC(COC1=O)=O)C | C6H8O4
